US07045662B2
Under a protective gas atmosphere 0.83 g (6.8 mmol) of 1-phenylethanol is added dropwise in the course of 5 min to a solution of 2.32 g (7.56 mmol) of i-Prop2N═CHF+HF2−.HNEt3+.HF2− in 10 ml of CH2Cl2 in a polyethylene container. The mixture is stirred for several hours at 20° C. and the conversion rate is analysed by 19F-NMR (reference: PhCF3). After 2.5 h, 81% of 1-fluoroethylbenzene is obtained, and after a stirring time of 24 h, 96% of product is obtained.

reactant | 1-phenylethanol | C1(=CC=CC=C1)C(C)O | C8H10O
reactant | polyethylene | C(C[*:2])[*:1]
reactant | PhCF3 | C1(=CC=CC=C1)C(F)(F)F | C7H5F3
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | 1-fluoroethylbenzene | 81% | FC(C)C1=CC=CC=C1 | C8H9F
